US08431563B2
To a 100-mL round-bottomed flask was added 3-((2-methoxy-4-pyridinyl)methyl)-2,5-piperazinedione (398 mg, 1.69 mmol) and borane methyl sulfide complex (0.64 mL, 6.77 mmol, Aldrich, St. Louis, Mo.) in THF (10 mL). The reaction mixture was stirred at 70° C. for 2 h and allowed to cool to room temperature. The reaction mixture was diluted with MeOH (1 mL), followed by 1N NaOH (12 mL), and extracted with DCM (2×50 mL). The organic extract was washed with saturated NaCl (10 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the 2-((2-methoxy-4-pyridinyl)methyl)piperazine as a colorless viscous oil, which was used without further purification.

reactant | 3-((2-methoxy-4-pyridinyl)methyl)-2,5-piperazinedione | 1.69 mmol, 398 mg | COC1=NC=CC(=C1)CC1C(NCC(N1)=O)=O | C11H13N3O3
reactant | NaOH | 1N, 12 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-((2-methoxy-4-pyridinyl)methyl)piperazine | COC1=NC=CC(=C1)CC1NCCNC1 | C11H17N3O
